US07084178B2
(1S,2R)-2-[(4-Chlorobenzenesulfonyl)-(5-chloro-thiophen-2-ylmethyl)-amino]-cyclohexanecarboxylic acid amide.
The titled compound was prepared in 38% yield from (1S,2R)-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide (75 mg, 0.237 mmol) and 2-bromomethyl-5-chloro-thiophene (83 mg, 0.498 mmol) according to the procedure described in Example 3: 1H NMR (400 Mz, CDCl3) δ 7.72 (d, 2 H, J=6.6), 7.59 (d, 2 H, J=8.9), 7.39 (br s, 1 H), 6.88 (d, 1 H, J=3.7), 6.79 (br s, 1 H), 4.69 (s, 2 H), 3.83 (dt, 1 H, Jd=12.7, J=3.7), 2.71 (m, 1 H), 2.52 (m, 1 H), 1.79–1.69 (m, 2 H), 1.61 (m, 1 H), 1.49–1.22 (m, 3 H), 1.11 (m, 1 H); MS m/e 469.1 (M+Na)+.

reactant | (1S,2R)-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide | 0.237 mmol, 75 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@H](CCCC1)C(=O)N | C13H17ClN2O3S
reactant | 2-bromomethyl-5-chloro-thiophene | 0.498 mmol, 83 mg | BrCC=1SC(=CC1)Cl | C5H4BrClS
product | (1S,2R)-2-[(4-Chlorobenzenesulfonyl)-(5-chloro-thiophen-2-ylmethyl)-amino]-cyclohexanecarboxylic acid amide | 38% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@H](CCCC1)C(=O)N)CC=1SC(=CC1)Cl | C18H20Cl2N2O3S2
